US07897792B2
3-(2-Fluoro-3-aminobenzyl)-7-methyloxy-4-methyl-2-oxo-2H-1-benzothiopyran
The title compound was synthesized using 3-methyloxy-benzenethiol and 2-(2-fluoro-3-aminobenzyl)-3-oxobutanoic acid ethyl ester under the same conditions as in the manufacturing example for compound 5d-0-4S1.

reactant | 3-methyloxy-benzenethiol | COC=1C=C(C=CC1)S | C7H8OS
reactant | 2-(2-fluoro-3-aminobenzyl)-3-oxobutanoic acid ethyl ester | C(C)OC(C(C(C)=O)CC1=C(C(=CC=C1)N)F)=O | C13H16FNO3
product | 3-(2-Fluoro-3-aminobenzyl)-7-methyloxy-4-methyl-2-oxo-2H-1-benzothiopyran | FC1=C(CC=2C(SC3=C(C2C)C=CC(=C3)OC)=O)C=CC=C1N | C18H16FNO2S
